US04200641
To a stirred mixture of 12.5 parts of 2-{[2-nitro-4-(trifluoromethyl)phenyl]amino}ethanol and 150 parts of trichloromethane are added dropwise 7.5 parts of sulfinyl chloride. Upon completion, stirring is continued for 2 hours at reflux temperature. The reaction mixture is evaporated and the residue is crystallized from 2,2'-oxybispropane. The product is filtered off and dried, yielding N-(2-chloroethyl)-2-nitro-4-(trifluoromethyl)benzenamine.

reactant | 2-{[2-nitro-4-(trifluoromethyl)phenyl]amino}ethanol | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)NCCO | C9H9F3N2O3
reactant | sulfinyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | trichloromethane | ClC(Cl)Cl | CHCl3
product | N-(2-chloroethyl)-2-nitro-4-(trifluoromethyl)benzenamine | ClCCNC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C9H8ClF3N2O2
